US03983116
A solution of 10 parts of 1-methyl-3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione in 100 parts of tetrahydrofuran at 0° is saturated with dimethylamine. The reaction is allowed to warm to room temperature and stand overnight. The solvent is evaporated and the residue triturated with ether to afford 9 parts of 1-methyl-3-isopropyl-6-dimethylamino-s-triazine-2,4(1H,3H)-dione, m.p. 104°-106°.

reactant | 1-methyl-3-isopropyl-6-methylthio-s-triazine-2,4(1H,3H)-dione | CN1C(N(C(N=C1SC)=O)C(C)C)=O | C8H13N3O2S
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-methyl-3-isopropyl-6-dimethylamino-s-triazine-2,4(1H,3H)-dione | CN1C(N(C(N=C1N(C)C)=O)C(C)C)=O | C9H16N4O2
